US09289419B2
Step-5: (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-4-fluoro-N-(4-hydroxy-4-(hydroxymethyl)cyclohexyl)pyrazolo[1,5-a]pyridine-3-carboxamide
The title compound was prepared by the method similar to that mentioned in Example-6, using (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylic acid and 4-amino-1-(hydroxymethyl)cyclohexanol (instead of ammonium chloride) to afford the crude compound. The crude compound was purified by Preparative TLC (using Silicagel GF254, 1000 u coated 20×20 cm dimension glass plate and 100% EtOAc as eluent) to afford 15 mg of the title compound.

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylic acid | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=C(C=2N(C=C1)N=CC2C(=O)O)F | C18H14F3N3O2
reactant | 4-amino-1-(hydroxymethyl)cyclohexanol | NC1CCC(CC1)(O)CO | C7H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
product | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-4-fluoro-N-(4-hydroxy-4-(hydroxymethyl)cyclohexyl)pyrazolo[1,5-a]pyridine-3-carboxamide | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=C(C=2N(C=C1)N=CC2C(=O)NC2CCC(CC2)(CO)O)F | C25H27F3N4O3
